US06248739B1
N-(4-Chlorobenzyl)-8-fluoro-6-(3-hydroxy-1-propynyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A mixture of N-(4-chlorobenzyl)-8-fluoro-6-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide from Preparation No. 14 (0.600 g), propargyl alcohol (0.11 mL, 1.90 mmol), CuI (0.048 g, 0.25 mmol), and PdCl2(PPh3)2 (0.178 g, 0.25 mmol) in diethylamine (42.5 mL) and CH2Cl2 (50 mL) are warmed to 65° C. overnight. The reaction mixture is then concentratred in vacuo. Column chromatography (elution with 5-10% MeOH/CH2Cl2) gave the title compound as a solid.

reactant | N-(4-chlorobenzyl)-8-fluoro-6-iodo-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)I)F)C)C=C1 | C18H13ClFIN2O2
reactant | propargyl alcohol | 1.90 mmol, 0.11 mL | C(C#C)O | C3H4O
solvent | diethylamine | 42.5 mL | C(C)NCC | C4H11N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | CuI | 0.25 mmol, 0.048 g | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.25 mmol, 0.178 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(4-Chlorobenzyl)-8-fluoro-6-(3-hydroxy-1-propynyl)-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)C#CCO)F)C)C=C1 | C21H16ClFN2O3
